US04889553
3-Benzylthio-5-methoxy-1-phenyl-1,2,4-triazole
3-Benzylthio-5-hydroxy-1-phenyl-1,2,4-triazole (15 g) in dichloromethane (60 ml) was treated with trimethyloxonium tetrafluoroborate (15.7 g) and allowed to stand for 18 hours at room temperature. The reaction mixture was poured into water (200 ml) and the aqueous layer was washed with dichloromethane (2×100 ml). The dried organic layer was evaporated and then purified by column chromatography (silica/petroleum ether:ether), to give 8.1 g of the desired product.

reactant | 3-Benzylthio-5-hydroxy-1-phenyl-1,2,4-triazole | 15 g | C(C1=CC=CC=C1)SC1=NN(C(=N1)O)C1=CC=CC=C1 | C15H13N3OS
reactant | trimethyloxonium tetrafluoroborate | 15.7 g | F[B-](F)(F)F.C[O+](C)C
reactant | water | 200 ml | O | H2O
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
product | 3-Benzylthio-5-methoxy-1-phenyl-1,2,4-triazole | 8.1 g | C(C1=CC=CC=C1)SC1=NN(C(=N1)OC)C1=CC=CC=C1 | C16H15N3OS
